US04195040
To a flask equipped with a stirrer, oxygen inlet and condenser were added pentamethylbenzaldehyde (12.0 g, 68 mmol), 40 mL (0.387 mol) of cyclohexanone and 6 mg of cobalt (II) acetate dissolved in several drops of acetic acid. Oxygen was bubbled in while the solution was stirred rapidly and heated at 50° for 4 hours. The solution was mixed with 100 mL of cyclohexane and the mixture was extracted with 100 mL of 6% aqueous sodium bicarbonate solution. The aqueous layer was separated and the organic layer was washed with 50 mL of water. The combined aqueous layers were acidified with concentrated hydrochloric acid. The white crystalline solid product was collected by filtration, washed with water and air dried. A total of 10.3 g (78% yield) of pentamethylbenzoic acid was obtained: mp 202°-206°.

reactant | pentamethylbenzaldehyde | 68 mmol, 12.0 g | CC1=C(C(=C(C(=C1C=O)C)C)C)C | C12H16O
reactant | cyclohexanone | 0.387 mol, 40 mL | C1(CCCCC1)=O | C6H10O
catalyst | acetic acid | several drops | C(C)(=O)O | C2H4O2
catalyst | cobalt (II) acetate | 6 mg | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
product | pentamethylbenzoic acid | 10.3 g, 78% yield | CC1=C(C(=C(C(=C1C(=O)O)C)C)C)C | C12H16O2
